US03954754
EXAMPLE 32: 3-Hydrazino-5,6,7,8-tetrahydro-6-(2-n-propylvaleroyl)pyrido[4,3-c]pyridazine
The 3-chloro-5,6,7,8-tetrahydro-6-(2-n-propylvaleroyl)pyrido[4,3-c]pyridazine, required as starting material, is produced in a manner analogous to that described in Example 8 (g), from 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and 2-n-propylvaleroyl chloride. The organic phase is concentrated, and the crude product is extracted from the resulting solid residue with a Soxhlet extraction apparatus, and is recrystallized from cyclohexane. M.P. 94°-95°.

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(2-n-propylvaleroyl)pyrido[4,3-c]pyridazine | ClC1=CC2=C(N=N1)CCN(C2)C(C(CCC)CCC)=O | C15H22ClN3O
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | 2-n-propylvaleroyl chloride | C(CC)C(C(=O)Cl)CCC | C8H15ClO
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(2-n-propylvaleroyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(C(CCC)CCC)=O | C15H25N5O
